US07696240B2
3-[(4-Methyl-benzoylamino)-methyl]-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 3-[(4-methyl-benzoylamino)-methyl]-1H-indole-2-carboxylic acid methyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 447.3 ([M−H]−).

reactant | 3-[(4-methyl-benzoylamino)-methyl]-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC=C2C1CNC(C1=CC=C(C=C1)C)=O | C19H18N2O3
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-[(4-Methyl-benzoylamino)-methyl]-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | CC1=CC=C(C(=O)NCC2=C(N(C3=CC=CC=C23)CC2=CC=CC3=CC=CC=C23)C(=O)O)C=C1 | C29H24N2O3
